US05500463
In a flask was charged 450 parts of n-butanol, and a mixture of 240 parts of styrene, 180 parts of 2-ethylhexyl acrylate, 300 parts of methyl acrylate, 500 parts of the epoxy resin-bound acrylic monomer solution obtained in Synthesis example 19 and 15 parts of benzoyl peroxide was gradually added dropwise at 80° to 90° C. over 3 hours. Then, a mixture of 2 parts of benzoyl peroxide and 30 parts of n-butanol was gradually added dropwise at the same temperature over 30 minutes. Stirring was continued for further 2 hours at the same temperature to obtain an epoxy resin-bound acrylic resin solution having a solid component of 60%.

reactant | styrene | C=CC1=CC=CC=C1 | C8H8
reactant | 2-ethylhexyl acrylate | C(C=C)(=O)OCC(CCCC)CC | C11H20O2
reactant | methyl acrylate | C(C=C)(=O)OC | C4H6O2
reactant | n-butanol | C(CCC)O | C4H10O
product | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
